US06013827
To a suspension of sodium chloride (315 g, 5.39 mol) and deionized water (315 mL) was added the dimethyl sulfoxide (4.2 L) solution of 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexane-1-one (323 g, 0.87 mol) and the resulting suspension was heated to 155° C. for 1.75 h. The reaction was cooled to 40° C., was quenched into 8 L of iced water (2° C.) and was extracted with ethyl acetate (3.5 L). The aqueous layer was isolated and re-extracted with 2.5 L of ethyl acetate. The combined organic extract (6 L) was washed two times with deionized water (2×1 L) and once with brine (1 L). The organic layer was isolated and concentrated in vacuo to afford a residue. This residue was dissolved in refluxing isopropanol (500 mL), was cooled to 0° C. and held at this temperature for 1 hour. The crystals were isolated by filtration, were washed with 250 mL of isopropanol (0° C.), and were dried in a vacuum oven (45° C. at 20 inches) to produce 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one. m.p. 111-112° C.; Anal. (C19H23NO3) calcd: C 72.82, H 7.40, N 4.47; found: C 72.72, H 7.39, N 4.48.

reactant | sodium chloride | 5.39 mol, 315 g | [Cl-].[Na+]
reactant | water | 315 mL | O | H2O
reactant | dimethyl sulfoxide | 4.2 L | CS(=O)C | C2H6OS
reactant | 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexane-1-one | 0.87 mol, 323 g | C(=O)(OC)C1C(CCC(C1)(C1=CC(=C(C=C1)OC)OC1CCCC1)C#N)=O | C21H25NO5
solvent | isopropanol | 500 mL | C(C)(C)O | C3H8O
product | 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one | C(#N)C1(CCC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C19H23NO3
